US05109013
2-(2-Chloroethyl)-3,4-dihydro-1,4-dimethyl-1H-[1,3,5]triazepino[3,2-a]benzimidazol-5(2H)-one
To a solution of 35 g of 20% phosgene in toluene (0.071 mol) in 400 mL of CH2Cl2 cooled to ~0° C. in an ice bath was added a solution of 15 g (0.065 mol) of N-methyl-N-(1-methyl-3-pyrrolidinyl)-1H-benzimidazol-2-amine in 40 mL of CH2Cl2 dropwise over a period of 1 hr. The ice bath was removed and the reaction mixture allowed to stir at room temperature for 1 hr. The mixture was then cooled to ~0° C. again and a solution of 7.21 g (0.071 mol) of diisopropyl ethylamine in 30 mL of CH2Cl2 was added dropwise. After the addition was complete, the cooling was removed and the mixture allowed to stir at room temperature for about 45 minutes. The entire reaction mixture was treated with 200 mL of 0.3N NaOH and 3×100 mL of H2O. The organic phase was separated, dried over Na2SO4, filtered and concentrated by rotary evaporation. Crystallization from isopropyl alcohol afforded 8.0 g of off-white, analytically pure crystals, mp 158°-59° C. Concentration of the mother liquid to half its volume afforded an additional 1.0 g of product, bringing the total yield to 9.0 g (47%).

reactant | phosgene | 35 g | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 0.071 mol | C1(=CC=CC=C1)C | C7H8
reactant | N-methyl-N-(1-methyl-3-pyrrolidinyl)-1H-benzimidazol-2-amine | 0.065 mol, 15 g | CN(C1=NC2=C(N1)C=CC=C2)C2CN(CC2)C | C13H18N4
reactant | diisopropyl ethylamine | 0.071 mol, 7.21 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NaOH | 0.3N, 200 mL | [OH-].[Na+]
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 100 mL | O | H2O
product | 2-(2-Chloroethyl)-3,4-dihydro-1,4-dimethyl-1H-[1,3,5]triazepino[3,2-a]benzimidazol-5(2H)-one | 1.0 g | ClCCC1CN(C(N2C(=NC3=C2C=CC=C3)N1C)=O)C | C14H17ClN4O
